US07030118B2
D) 3-Benzyl-5-chloro-2-(2-dimethylamino-vinyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
Dimethylformamide dimethylacetal (20 ml, 152 mmol) was added to a solution of 3-benzyl-5-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (9.0 g, 33 mmol) in DMF (100 mL) with MgSO4 (5 g) and the reaction mixture was heated to 140° C. in a sealed tube for 16 h. The reaction mixture was concentrated in vacuo, the residue dissolved with EtOAc (50 mL) and a solid was precipitated by addition of petroleum ether (300 mL). The solid was filtered, washed with petroleum ether and dried in vacuo to afford title compound (5.4 g, 50%) as a solid: 1H NMR (CDCl3) δ 7.22 (d, 1H, J=12.43 Hz), 7.08–7.19 (m, 5H), 6.97 (m, 1H), 6.23 (m, 1H), 5.08 (s, 2H), 4.40 (d, 1H, J=12.49 Hz), 2.67 (s, 6H); MS (ESI+) 329 (M++H).

reactant | Dimethylformamide dimethylacetal | 152 mmol, 20 ml | COC(N(C)C)OC | C5H13NO2
reactant | 3-benzyl-5-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 33 mmol, 9.0 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C | C14H12ClN3O
reactant | MgSO4 | 5 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Benzyl-5-chloro-2-(2-dimethylamino-vinyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 5.4 g, 50% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C=CN(C)C | C17H17ClN4O
